US07834063B2
N-[4-({2-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]ethyl}thio)phenyl]-N-methylacetamide
NaH (60% in oil, 0.003 g, 0.075 mmol) was added to a solution of N-[4-({2-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]ethyl}thio)phenyl]acetamide (0.026 g, 0.056 mmol) in DMF (2 mL) under N2. After 5 min, iodomethane (0.009 g, 0.063 mmol) was added and stirred at rt for 30 min. The mixture was partitioned between Et2O and water. The organic phase was washed with water and brine, dried (Na2SO4), and concentrated in vacuo. The residue was purified by silica gel chromatography (5-80% EtOAc/hexanes gradient) to give the title compound (0.018 mg, 66% yield): MS (ES) m/z 476 (M+1).

reactant | NaH | 0.075 mmol, 0.003 g | [H-].[Na+]
reactant | N-[4-({2-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]ethyl}thio)phenyl]acetamide | 0.056 mmol, 0.026 g | C(#N)C1=C(C=C(C=C1)N(CCSC1=CC=C(C=C1)NC(C)=O)CC(F)(F)F)C(F)(F)F | C20H17F6N3OS
reactant | iodomethane | 0.063 mmol, 0.009 g | IC | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[4-({2-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]ethyl}thio)phenyl]-N-methylacetamide | 0.018 mg, 66% yield | C(#N)C1=C(C=C(C=C1)N(CCSC1=CC=C(C=C1)N(C(C)=O)C)CC(F)(F)F)C(F)(F)F | C21H19F6N3OS
